2128-07-17 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2128-7-16**] 08:00 AM
 pt weaned off dopamine gtt
 asymptomatic hypotension to SBPs 80s overnight with moderate response
   to fluids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-7-16**] 05:44 AM
   Ceftazidime - [**2128-7-16**] 06:30 AM
   Vancomycin - [**2128-7-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-17**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 67 (65 - 111) bpm
   BP: 74/39(48) {74/39(48) - 118/76(114)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,381 mL
                                                                    563 mL
   PO:
                                                                    430 mL
             TF:
   IVF:
                                                                  3,951 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                   -700 mL
   Urine:
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  3,881 mL
                                                                  1,263 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Awake, alert, NAD, pleasant, appropriate, cooperative.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions noted in
   OP.  Periorbital edema.
   Neck: thick, supple, + JVP.  multiple prior line placement scars.
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Chest: RSC HD tunneled line, no expressible fluid. dressing c/d/i,
   non-tender. B/l breast edema R>L
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, normoactive bowel sounds, no masses or organomegaly
   noted.  Mimimally TTP in LLQ.  No rebound or guarding.  PD catheter in
   place, c/d/i, non-tender.
   Extremities: [**11-26**]+ dependent upper extremity pitting edema b/l.  No LE
   edema.
   Skin: no rashes or lesions noted.
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. Normal bulk, strength and
   tone throughout. No abnormal movements noted. No deficits to light
   touch throughout. No nystagmus, dysarthria, intention or action
   tremor.
   Labs / Radiology
   570 K/uL
   9.4 g/dL
   88 mg/dL
   10.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   28 mg/dL
   104 mEq/L
   136 mEq/L
   29.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2128-7-16**]  12:15 AM
                             [**2128-7-16**]  05:29 AM
                             [**2128-7-16**]  06:56 PM
                             [**2128-7-17**]  05:38 AM
   WBC
   7.2
   7.0
   8.2
   Hct
   27.9
   27.0
   29.7
   Plt
   531
   490
   570
   Cr
   10.3
   9.9
   10.3
   10.5
   TropT
   0.07
   0.07
   Glucose
   80
   111
   103
   88
   Other labs: PT / PTT / INR:26.6/38.1/2.6, CK / CKMB /
   Troponin-T:76//0.07, ALT / AST:[**1-7**], Alk Phos / T Bili:73/0.2, Amylase
   / Lipase:96/18, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:171 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   <I>ASSESSMENT:</I>55F with ESRD on HD/PD presenting with 2 weeks
   diarrhea in setting of abx use with hypotension/dizziness.
   .
   <I>PLAN:</I>
   .
   <I>## Hypotension/syncope:</I> Likely due to volume depletion in
   setting of diarrhea, also possible this is early sepsis.  Pt presented
   recently with gram negative bacteremia with little or now symptoms,
   will have low threshold to consider sepsis.  Other possible etiologies
   for hypotension = MI, no ecg changes, no CP.  PE less likely and have
   better explanation in setting of high volume diarrhea and ongoing
   dialysis.
   -IVF, bolus to BP as does not make urine, cautious with hydration given
   ESRD.  Goal BP >95 and pt asymptomatic.
   -Continue ROMI
   -hold ativan for now.
   .
   <I>## Diarrhea:</I>Pt at high risk for c. diff given recent
   hospitalization and ongoing IV abx for her bacteremia.  Other possible
   etiologies are antibiotic associated vs a manifestation of
   sepsis/bacteremia.
   -treatment for severe c.diff given degree of fluid refractory
   hypotension on pressors with PO vancomycin and IV flagy
   -blood cultures daily
   -send fluid from PD for culture and gram stain
   -hydration as above
   -Give one dose IV vanc
   -continue ceftaz (usually given with HD, gave one dose overnight)
   -Check LFTs, TSH
   -Check KUB tonight, r/o toxic megacolon/free air.
   .
   <I>## ESRD:</I>Gets HD M/F, also PD
   -call renal in am to arrange friday dialysis vs PD
   -Get PD fluid for gram stain and culture
   -continue lanthanum, sevelamer, renagel, sensipar, fosrenol,
   paricalcitol (with HD)
   .
   <I>## HTN:</I>Hold all antihypertensives while BPs low.
   .
   <I>## OSA:</I>CPAP
   .
   <I>## H/O GNR bacteremia:</I>Continue to monitor blood cultures.
   -Continue ceftazidime for planned course
   .
   <I>## Depression:</I>
   -Continue celexa
   .
   <I>## Anemia:</I>
   -Continue EPO and Iron infusions with dialysis.
   .
   <I>## Post-herpetic neuralgia:</I>
   -Continue gabapentin
   .
   <I>## Functional SVC syndrome:</I> Pt's symptoms of facial and breast
   swelling may be more a manifestation of this rather than true fluid
   overload.
   -Hold coumadin while checking coags, as abx may change INR, then
   continue to therapeutic goal.
   .
   <I>## CAD: </I> No active symptoms or ecg changes
   -cycle enzymes
   .
   <I>## GERD: </I>
   -continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-7-16**] 05:47 AM
   Dialysis Catheter - [**2128-7-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-07-17 09:32:00 Physician Attending Progress Note
Chief Complaint: Hypotension, diarrhea - +C. diff
   I saw and examined the patient, and was physically present with the ICU
   Resident and fellow for key portions of the services provided.  I agree
   with Dr. [**First Name (STitle) 2807**]
s note above, including assessment and plan.
   HPI:
   55 F PMH ESRD transitioning from HD to PD, SVC syndrome secondary to
   clots receiving anti-coagulation, recent line infection with E. cloacea
   treated ceftazidime who was admitted with hypotension causing syncope
   in the setting of diarrhea.  Since admision, she has been found to be
   C. diff positive for which she's receiving flagyl and po vancomycin.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2128-7-16**] 08:00 AM
   - Dopamine stopped at 4 pm yesterday.
   - Recurrent hypotension through the night - developed symptoms this
   a.m.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-7-16**] 05:44 AM
   Ceftazidime - [**2128-7-16**] 06:30 AM
   Vancomycin - [**2128-7-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Iron
   Omeprazole
   ASA 325 mg daily
   Sevelamer
   Lanthinum
   Neurontin
   Celexa
   Cinacalcet
   Simvastatin
   Coumadin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Hypotension
   Gastrointestinal: Nausea
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2128-7-17**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 69 (65 - 111) bpm
   BP: 71/42(49) {71/39(48) - 113/76(114)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,381 mL
                                                                  1,130 mL
   PO:
                                                                    430 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  3,951 mL
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                   -700 mL
   Urine:
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  3,881 mL
                                                                  1,830 mL
   Respiratory support
   O2 Delivery Device: None, CPAP mask
   SpO2: 100%
   Physical Examination
   General Appearance: Overweight / Obese, Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: Near PD catheter
   Extremities: Upper extremity edema, Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   570 K/uL
   88 mg/dL
   10.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   28 mg/dL
   104 mEq/L
   136 mEq/L
   29.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2128-7-16**]  12:15 AM
                             [**2128-7-16**]  05:29 AM
                             [**2128-7-16**]  06:56 PM
                             [**2128-7-17**]  05:38 AM
   WBC
   7.2
   7.0
   8.2
   Hct
   27.9
   27.0
   29.7
   Plt
   531
   490
   570
   Cr
   10.3
   9.9
   10.3
   10.5
   TropT
   0.07
   0.07
   Glucose
   80
   111
   103
   88
   Other labs: PT / PTT / INR:26.6/38.1/2.6, CK / CKMB /
   Troponin-T:76//0.07, ALT / AST:[**1-7**], Alk Phos / T Bili:73/0.2, Amylase
   / Lipase:96/18, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:171 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Imaging: KUB - No free air.
   Microbiology: Blood - Pending
   Dialysate - Gram stain neg; cx pending
   C. diff - Positive ([**7-15**])
   Assessment and Plan
   55 F ESRD transitioning from HD to PD, SVC syndrome secondary to clots
   on anticoagulation, recent line infection with E. cloacae on
   ceftazidime admitted with hypotension and diarrhea.  She is C. diff
   positive and continues to have symptomatic hypotension.
   1)       Hypotension due to hypovolemic +/- septic shock
 likely
   secondary to hypovolemia related to ongoing diarrhea and septic
   physiology.  However, she is experiencing L shoulder pain radiating
   across her chest and has distant heart sounds.  No signs of blood
   loss.  She is therapeutically anticoagulated making PE unlikely.  We
   will check BP in all four extremities and consider a-line placement if
   unable to get accurate pressures.  Continue IVF boluses as there are
   currently no signs of volume overload.  Will obtain EKG and perhaps
   echocardiogram if there are abnormalities.  Will send another set of
   cardiac markers.  She may need re-initiation of peripheral dopamine.
   Central line placement would be complicated by INR 2.6 but may be
   necessary.  MAP goal > 60.
   2)       C. Diff
 Continue po vancomycin and IV flagyl.
   3)       E. cloacae Bacteremia
 Contine ceftazidime.
   4)       SVC syndrome
 Currently on coumadin with INR 2.6, which is
   not ideal in her current situation (C. diff, antibiotics, hypotension
   with potential need for procedures).  If we have not stabilized her
   prior to evening dose, we will hold this medication and start heparin
   drip when INR 2.0.
   5)       ESRD
 being dialysed via port, positive fluid balance today.
   Continue other renal medications.
   6)       OSA
 CPAP.
   ICU Care
   Nutrition: Renal diet.
   Glycemic Control:  None needed.
   Lines:  20 Gauge - [**2128-7-16**] 05:47 AM
   Dialysis Catheter - [**2128-7-16**] 08:00 AM
   Prophylaxis: DVT: Therapeutic coumadin, Stress ulcer: Omeprazole, VAP:
   N/A,
   Code status: Full code
   Disposition : Remains in ICU, total time spent: 32 minutes, critically
   ill

2128-07-18 02:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   * Patient was persistently hypotensive, which was thought to be due to
   hypovolemia
      from diarrhea and PD/HD, so 1 liter of NS was given with HD, PD was
   decreased
      to 2 bags for the day and patient received 3 L of NS over the day to
   maintain
      MAP around 60 and or to relieve previous symptoms (lightheadedness)
   * Coumadin was held as patient was therapeutic and in case a CVL would
   need to
      be placed, allowing for easier reversal.
   * EKG performed for decreased heart sounds showed no electrical
   alternans or
     significantly decreased voltage compared to prior
   * Repeat CEs done given complaints of abdominal pain, N/V and
   hypotension and
     were unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-7-16**] 05:44 AM
   Ceftazidime - [**2128-7-16**] 06:30 AM
   Vancomycin - [**2128-7-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-7-18**] 02:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 75 (66 - 85) bpm
   BP: 97/48(57) {71/28(46) - 97/67(74)} mmHg
   RR: 19 (6 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,580 mL
                                                                     28 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  4,230 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,080 mL
                                                                     28 mL
   Respiratory support
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General: Awake, alert, NAD, appropriate, cooperative.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions noted in
   OP.  Periorbital edema.
   Neck: thick, supple, + JVP.  multiple prior line placement scars.
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Chest: RSC HD tunneled line, no expressible fluid. dressing c/d/i,
   non-tender. B/l breast edema R>L
   Cardiac: RR, S1 S2 distant, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, normoactive bowel sounds, no masses or organomegaly
   noted. Minimally tender to palpation in LLQ.  No rebound or guarding.
   PD catheter in place, c/d/i
   Extremities: [**11-26**]+ dependent upper extremity pitting edema b/l.  No LE
   edema.
   Skin: no rashes or lesions noted.
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. Normal bulk, strength and
   tone throughout. No abnormal movements noted. No deficits to light
   touch throughout. No nystagmus, dysarthria, intention or action
   tremor.
   Labs / Radiology
   570 K/uL
   9.4 g/dL
   88 mg/dL
   10.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   28 mg/dL
   104 mEq/L
   136 mEq/L
   29.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2128-7-16**]  12:15 AM
                             [**2128-7-16**]  05:29 AM
                             [**2128-7-16**]  06:56 PM
                             [**2128-7-17**]  05:38 AM
   WBC
   7.2
   7.0
   8.2
   Hct
   27.9
   27.0
   29.7
   Plt
   531
   490
   570
   Cr
   10.3
   9.9
   10.3
   10.5
   TropT
   0.07
   0.07
   0.07
   Glucose
   80
   111
   103
   88
   Other labs: PT / PTT / INR:25.5/41.8/2.5, CK / CKMB /
   Troponin-T:57//0.07, ALT / AST:[**1-7**], Alk Phos / T Bili:73/0.2, Amylase
   / Lipase:96/18, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:171 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   <I>ASSESSMENT:</I>55F with ESRD on HD/PD presenting with 2 weeks
   diarrhea in setting of abx use with hypotension/dizziness.
   .
   <I>PLAN:</I>
   .
   <I>## Hypotension/syncope:</I> Likely due to volume depletion in
   setting of diarrhea and flux in fluid status with PD/HD. Patient is
   symptomatic this AM and receiving fluid boluses. Other considerations
   are cardiac tamponade given distant heart sounds, not previously noted.
   This is a reasonable consideration in a patient with renal failure.
   Sepsis is also a possibility as patient has both C. diff and a history
   of GNR bacteremia, on appropriate medications for both. Currently,
   culture data does not support bacteremia and patient is afebrile with a
   normal WBC.
   -IVF boluses to maintain MAP of 60 and or to avoid symptoms
   -Discussed adding fluid back with PD with renal. Await renal recs
   -EKG and if abnormal, consider TTE
   -Will send off additional set of CEs
   -F/U cultures
   -A line if hypotension persists
   -Consider groin CVL with pressors as last resort
   .
   <I>## Diarrhea:</I>C. diff confirmed on cultures. Currently on PO
   Vancomycin and Flagyl. WBC normal and no fever, but continued stooling.
   KUB shows no megacolon or free air.
   -Continue abx
   -Continue hydration as above
   .
   <I>## ESRD:</I>Gets HD M/F, also PD; PD fluid negative for infection
   -Plan to run patient even to positive with PD; Follow-up official renal
   recs
   -Continue lanthanum, sevelamer, renagel, sensipar, fosrenol,
   paricalcitol (with HD)
   .
   <I>## HTN:</I>Hold all antihypertensives while BPs low.
   .
   <I>## OSA:</I>CPAP
   .
   <I>## H/O GNR bacteremia:</I>Continue to monitor blood cultures.
   -Continue Ceftazidime for planned course
   .
   <I>## Depression:</I>
   -Continue Celexa
   .
   <I>## Anemia:</I>
   -Continue EPO and Iron infusions with dialysis.
   .
   <I>## Post-herpetic neuralgia:</I>
   -Continue Gabapentin
   .
   <I>## Functional SVC syndrome:</I> Pt's symptoms of facial and breast
   swelling may be more a manifestation of this rather than true fluid
   overload.
   -Should hypotention continue and a CVL is foreseeable, will hold
   Coumadin and start Heparin gtt. Otherwise, therapeutic on Coumadin and
   can continue
   .
   <I>## GERD: </I>
   -Continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:  N/A
   Lines: PIV
   20 Gauge - [**2128-7-16**] 05:47 AM
   Dialysis Catheter - [**2128-7-16**] 08:00 AM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2128-07-18 11:01:00 Physician Attending Progress Note
Chief Complaint: Hypotension, diarrhea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 F ESRD transitioning from HD to PD, recent line infection from E.
   cloacae on course of ceftazidime, SVC syndrome secondary to clots on
   systemic anti-coagulation.  She was admitted with severe C. diff with
   hypotension requiring large volume fluid resuscitation.
   24 Hour Events:
   -Hypotension improved with IVF.
   -HD yesterday - run +1L
   -EKG unremarkable yesterday
   -Coumadin held
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2128-7-16**] 05:44 AM
   Ceftazidime - [**2128-7-16**] 06:30 AM
   Vancomycin - [**2128-7-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Prilosec 20 mg daily
   ASA 325 mg daily
   Renagel
   Lanthinum
   Celexa
   Cinacalcet
   Simvastatin
   Coumadin - held
   Lidocaine patch
   Percocet
   Changes to medical and family history:  Reviewed above PMHx, SHx, and
   there are no changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Hypotension
   Gastrointestinal: Abdominal pain
   Genitourinary: Dialysis
   Heme / Lymph: Anemia, Coagulopathy
   Flowsheet Data as of  [**2128-7-18**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 76 (69 - 85) bpm
   BP: 93/68(74) {77/28(46) - 100/68(74)} mmHg
   RR: 0 (0 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  4,580 mL
                                                                    207 mL
   PO:
                                                                    350 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  4,230 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,080 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Bases)
   Abdominal: Soft, Bowel sounds present, Tender: at PD catheter site, no
   g/r
   Extremities: Upper extremity / breast edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   525 K/uL
   84 mg/dL
   6.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   14 mg/dL
   102 mEq/L
   137 mEq/L
   28.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2128-7-16**]  12:15 AM
                             [**2128-7-16**]  05:29 AM
                             [**2128-7-16**]  06:56 PM
                             [**2128-7-17**]  05:38 AM
                             [**2128-7-18**]  05:56 AM
   WBC
   7.2
   7.0
   8.2
   6.8
   Hct
   27.9
   27.0
   29.7
   28.0
   Plt
   531
   490
   570
   525
   Cr
   10.3
   9.9
   10.3
   10.5
   6.6
   TropT
   0.07
   0.07
   0.07
   Glucose
   80
   111
   103
   88
   84
   Other labs: PT / PTT / INR:24.5/41.8/2.4, CK / CKMB /
   Troponin-T:57/0.07, ALT / AST:[**1-7**], Alk Phos / T Bili:73/0.2, Amylase /
   Lipase:96/18, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:171 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.4 mg/dL, PO4:2.3 mg/dL
   Imaging: None.
   Microbiology: C. diff positive
   Blood - Negative
   Peritoneal fluid - Negative
   Assessment and Plan
   55 F ESRD transitioning from HD to PD, recent line infection with E.
   cloacae on ceftazidime, SVC syndrome secondary to clots on systemic
   anti-coagulation admitted with severe C. diff colitis.  Hypotension
   seems to markedly improved with fluid resuscitation.
   1)       C. diff
 Continue IV flagyl, po vancomycin.  Will need to
   complete two weeks of therapy beyond ceftaz course.
   2)       Bacteremia
 Scheduled to complete ceftaz today, but would
   favor another week of therapy given recent hypotension.
   3)       ESRD
 Three sessions of PD today with reduced volume today.
   4)       HTN
 Holding anti-hypertensives.
   5)       Pain
 Continue percocet, lidocaine patch, neurontin.
   6)       SVC syndrome
 Systemically anti-coagulated.  Decrease
   coumadin dose to 1 mg daily.
   ICU Care
   Nutrition: Low sodium, low potassium
   Glycemic Control:  Lantus, RISS
   Lines:
   20 Gauge - [**2128-7-15**] 10:30 PM
   Dialysis Catheter - [**2128-7-16**] 08:00 AM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer: Prilosec
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : [**Month (only) 60**] transfer to the floor this afternoon if BP remains
   stable.  OOB.
   Total time spent: